US08957066B2
Acetyl chloride (38.2 mL, 1.07 equiv) and triethylamine (86 mL, 1.2 equiv) were added at 0° C. to a solution of 4-iodo-1H-pyrazole (100 g, 0.515 mol) in dichloromethane (1 L). The mixture was stirred overnight at room temperature. The reaction mixture was poured into water. The aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate (Na2SO4), and filtered. The residue obtained by concentration was purified by silica gel column chromatography (Hexane/EtOAc 20:1 to 1:1) to give N-acetyl 4-iodo-1H-pyrazole as a solid (110 g, 91%).

reactant | Acetyl chloride | 38.2 mL, 1.07 equiv | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 86 mL, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-iodo-1H-pyrazole | 0.515 mol, 100 g | IC=1C=NNC1 | C3H3IN2
reactant | water | O | H2O
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N-acetyl 4-iodo-1H-pyrazole | 110 g, 91% | C(C)(=O)N1N=CC(=C1)I | C5H5IN2O
